US07560596B2
Synthesis of 3-dec-1-ynyl-2,4-difluoro-benzoic acid (FIG. 6, Entry 5)
The general procedure described in Example 27 was used with 3-chloro-2,4-difluoro-benzoic acid (97 mg, 0.50 mmol), 1-decyne (0.136 mL, 0.75 mmol), PdCl2(CH3CN)2 (3.2 mg, 0.0125 mmol, 1.25 mol %), sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate (20.0 mg, 0.0375 mmol, 3.75 mol %), Cs2CO3 (650 mg, 2.00 mmol), water (1.0 mL), acetonitrile (1.0 mL), 12 h, 100° C. The product was isolated as a white solid (102 mg, 70%). Mp=117° C. 1H NMR (400 MHz, d6-DMSO) δ: 10.1 (br-s, 1H), 7.88 (q, 1H, J=8.8 Hz), 7.26 (t, 1H, J=8.4 Hz), 2.51 (t, 2H, J=6.8 Hz), 1.57 (p, 2H, J=6.8 Hz), 0.80-1.43 (m, 13H). 13C NMR (125 MHz, CDCl3) δ: 168.7, 167.9, 165.3, 162.6, 132.3, 132.2, 114.1, 111.7, 111.5, 104.8, 103.1, 66.7, 32.0, 29.4, 29.3, 28.9, 28.5, 22.9, 20.0, 14.3. IR (neat, cm−1): 3428 (br), 2922, 2848, 2235, 1689, 1611, 1406, 1268, 1242, 1051, 1036. Anal. Calcd for C17H20F2O2: C, 69.37; H, 6.85. Found: C, 69.13; H, 6.80.

reactant | 3-chloro-2,4-difluoro-benzoic acid | 0.50 mmol, 97 mg | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
reactant | 1-decyne | 0.75 mmol, 0.136 mL | C#CCCCCCCCC | C10H18
reactant | sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate | 0.0375 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)S(=O)(=O)[O-])C(C)C)C1CCCCC1.[Na+]
reactant | Cs2CO3 | 2.00 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | water | 1.0 mL | O | H2O
product | 3-dec-1-ynyl-2,4-difluoro-benzoic acid | 102 mg, 70% | C(#CCCCCCCCC)C=1C(=C(C(=O)O)C=CC1F)F | C17H20F2O2
